US07812047B2
c) rac-3-(4-Chloro-phenoxy)-propane-1,2-diamine
To a solution of rac-1-chloro-4-(2,3-diazido-propoxy)-benzene (0.89 g, 3.5 mmol) in methanol (5 ml) was added palladium on charcoal (50 mg) and the mixture was hydrogenated at atmospheric pressure for 1 hour. The catalyst was removed by filtration over celite and the filtrate was evaporated. The residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate) to yield a light yellow liquid (0.19 g, 27%); MS (ISP): 201.3 ((M+H)+).

reactant | rac-1-chloro-4-(2,3-diazido-propoxy)-benzene | 3.5 mmol, 0.89 g | ClC1=CC=C(C=C1)OCC(CN=[N+]=[N-])N=[N+]=[N-] | C9H9ClN6O
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | rac-3-(4-Chloro-phenoxy)-propane-1,2-diamine | 0.19 g, 27% | ClC1=CC=C(OCC(CN)N)C=C1 | C9H13ClN2O
